US04427586
[3R,4R]-4-[(1-Acetyl-1-ethoxycarbonyl)ethyl]-3-phthalimido-2-oxoazetidine
To 10 ml of 0.2 M methanolic sodium methoxide cooled at -78° C., are added dropwise a solution of 864 mg of ethyl 2-methylacetoacetate and 672 mg (2 mMol) of methyl [3S,4R]-2-(4-chloro-3-phthalimido-2-oxoazetidin-1-yl)-2-oxoacetate in 5 ml of dichloromethane. After 3 min, 10 drops of acetic acid are added to the reaction mixture. The solvent is evaporated and the residue is taken into ethyl acetate, washed with water and dried over anhydrous magnesium sulfate. The solution is evaporated to dryness, the residue is subjected to silica-gel column chromatography (silica gel, 30 g) and developed with n-hexane-ethyl acetate (1:2). The fractions containing the desired compound are combined and concentrated, and the residue is triturated with ether to afford 200 mg of the titled compound. m.p. 135°-145° C.

reactant | sodium methoxide | 0.2 M, 10 ml | C[O-].[Na+]
reactant | ethyl 2-methylacetoacetate | 864 mg | CC(C(=O)OCC)C(=O)C | C7H12O3
reactant | methyl [3S,4R]-2-(4-chloro-3-phthalimido-2-oxoazetidin-1-yl)-2-oxoacetate | 2 mMol, 672 mg | Cl[C@@H]1[C@H](C(N1C(C(=O)OC)=O)=O)N1C(C=2C(C1=O)=CC=CC2)=O | C14H9ClN2O6
reactant | dichloromethane | 5 ml | ClCCl | CH2Cl2
catalyst | acetic acid | 10 drops | C(C)(=O)O | C2H4O2
product | [3R,4R]-4-[(1-Acetyl-1-ethoxycarbonyl)ethyl]-3-phthalimido-2-oxoazetidine | 200 mg | C(C)(=O)C(C)OC(=O)CC[C@@H]1[C@H](C(N1)=O)N1C(C=2C(C1=O)=CC=CC2)=O | C18H18N2O6
